US07259266B2
Step 1. Preparation of ethyl 6-chloro-8-(3-methylbut-3-en-1-ynyl)-2-(trifluoromethyl)-2H-chromene-3-carboxylate
To a solution of ethyl 6-chloro-8-iodo-2-(trifluoromethyl)-2H-chromene-3-carboxylate prepared as in U.S. Pat. No. 6,271,253 B1 Example 73, Step 2 (0.342 g, 0.790 mmole) in degassed anhydrous toluene was added Pd(PPh3)4 (54 mg, 0.47 mmole), CuI (15 mg, 0.079 mmole), TEA (0.275 mg, 2.72 mmole) and 2-methylbut-1-en-3-yne (0.247 g, 3.74 mmole) and the mixture was stirred under a N2 atmosphere. After the reaction was determined to be complete by GCMS, H2O and EtOAc were added and the layers were separated. The EtOAc layer was washed with 10% HCl, twice with H2O, twice with aqueous NH4Cl, dried over Na2SO4 and concentrated in vacuo. Purification of the crude product by silica chromatography (95:5 hexanes:EtOAc) gave 155 mg (53% yield) of the product as a white crystalline solid: 1H NMR (CDCl3/300 MHz) 7.62 (s, 1H), 7.37 (d, 1H, J=2.4 Hz), 7.14 (d, 1H, J=2.4 Hz), 5.80 (q, 1H, J=6.6 Hz), 5.44 (m, 1H), 5.35-5.36 (m, 1H), 4.31-4.34 (m, 2H), 1.99 (s, 3H), 1.36 (t, 3H, J=7.1 Hz).

reactant | ethyl 6-chloro-8-iodo-2-(trifluoromethyl)-2H-chromene-3-carboxylate | ClC=1C=C2C=C(C(OC2=C(C1)I)C(F)(F)F)C(=O)OCC | C13H9ClF3IO3
reactant | 2-methylbut-1-en-3-yne | 3.74 mmole, 0.247 g | CC(=C)C#C | C5H6
reactant | H2O | O | H2O
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(PPh3)4 | 0.47 mmole, 54 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | CuI | 0.079 mmole, 15 mg | [Cu]I
product | ethyl 6-chloro-8-(3-methylbut-3-en-1-ynyl)-2-(trifluoromethyl)-2H-chromene-3-carboxylate | 155 mg, 53% yield | ClC=1C=C2C=C(C(OC2=C(C1)C#CC(=C)C)C(F)(F)F)C(=O)OCC | C18H14ClF3O3
